US05006570
139 g of ground potassium carbonate, 470 ml of acetonitrile, 16 g of benzyltributylammonium chloride and 136 g of allyl bromide were introduced into a 3-liter round-bottomed flask and 236 g of ground methyl 4-bromosalicylate were added in small amounts. The contents were heated under reflux with vigorous stirring, for 5 hours and then a part of the acetonitrile was distilled off under slight vacuum and the residue was taken up with water. A precipitate of methyl 2-allyloxy-4-bromobenzoate was obtained, which was drained, washed with water and air-dried.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 136 g | C(C=C)Br | C3H5Br
reactant | methyl 4-bromosalicylate | BrC=1C=C(C(C(=O)OC)=CC1)O | C8H7BrO3
catalyst | benzyltributylammonium chloride | 16 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 470 ml | C(C)#N | C2H3N
product | methyl 2-allyloxy-4-bromobenzoate | C(C=C)OC1=C(C(=O)OC)C=CC(=C1)Br | C11H11BrO3
